US06949542B2
7,8-Dichloro-4-[3-(2-trifluoromethyl-pyridin-4-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from commercially available 4,5-dichloro-1,2-phenylendiamine (133 mg, 0.75 mmol) and 3-oxo-3-[3-(2-trifluoromethyl-pyridin-4-yl)-phenyl]-propionic acid tert-butyl ester (Example K38) (274 mg, 0.75 mmol) in xylene (15 ml) under reflux conditions for 2 h according to the general procedure M. Obtained as a light red solid (290 mg, 86%).

reactant | 4,5-dichloro-1,2-phenylendiamine | 0.75 mmol, 133 mg | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | 3-oxo-3-[3-(2-trifluoromethyl-pyridin-4-yl)-phenyl]-propionic acid tert-butyl ester | 0.75 mmol, 274 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=CC(=NC=C1)C(F)(F)F)=O)=O | C19H18F3NO3
solvent | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 7,8-Dichloro-4-[3-(2-trifluoromethyl-pyridin-4-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=CC(=NC=C2)C(F)(F)F)=O)C=C1Cl | C21H12Cl2F3N3O
